US04568677
2-Amino-6-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-4-pyrimidone
A solution of guanidine hydrochloride (0.20 g), ethyl 4-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetoacetate (0.99 g), and 1,5-diazabicyclo[4.3.0]non-5-ene (0.30 g) in ethanol (50 ml) was stirred at room temperature for 5 days and then evaporated. The residue was dissolved in chloroform and washed with 2M hydrochloric acid, 10% aqueous sodium carbonate, and water, dried (MgSO4), and evaporated. The residual solid was recrystallised from ethyl acetate to give the title compound (0.23 g), m.p. 185°-187° C. Found: C,56.08; H,5.14; N,11.33. C23H25ClN4O6 requires C,56.50; H,5.15; N,11.46%.

reactant | guanidine hydrochloride | 0.20 g | Cl.NC(=N)N
reactant | ethyl 4-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetoacetate | 0.99 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC(CC(=O)OCC)=O)C(=O)OCC | C24H28ClNO8
reactant | 1,5-diazabicyclo[4.3.0]non-5-ene | 0.30 g | N12CCCN=C2CCC1 | C7H12N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Amino-6-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-4-pyrimidone | 0.23 g | NC1=NC(=CC(N1)=O)COCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C | C23H25ClN4O6
